US05256824
A solution of 2,2-diphenyl-2-(2-propynyl)acetaldehyde (83.0 g) in acetic acid (83 ml) was added dropwise to a solution of mercuric acetate (3.1 g) and sulfuric acid (18.3 g) in a mixture of acetic acid (300 ml) and water (75 ml) over a period of 2 hours at room temperature. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed successively with water and aqueous solution of sodium bicarbonate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of n-hexane and ethyl acetate (5:1) as an eluent to give 3-acetyl-2,2-diphenylpropionaldehyde (48.9 g).

reactant | 2,2-diphenyl-2-(2-propynyl)acetaldehyde | 83.0 g | C1(=CC=CC=C1)C(C=O)(CC#C)C1=CC=CC=C1 | C17H14O
reactant | sulfuric acid | 18.3 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 83 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
product | 3-acetyl-2,2-diphenylpropionaldehyde | 48.9 g | C(C)(=O)CC(C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H16O2
